US05635524
With stirring, 0.18 ml 36.5% aqueous formaldehyde are added at room temperature to a suspension of 0.589 g of (RS)-α1 -[[[6-(4-phenylbutoxy)hexyl]amino]methyl]-4-hydroxy-1,3-dihydroxymethylbenzene (racemic mixture of R- and S-enantiomers) in 14 ml of methylene chloride. The mixture is stirred for 1 hour, diluted with methylene chloride and stirred for 14 hours at room temperature. The solution is washed with water (2×10 ml), dried over magnesium sulfate and concentrated by evaporation at 20 mbar and 30° C. The residue is dried at 0.1 mbar at 30° C. for 4 hours, giving the racemate of (SR)-3-[6-(4-phenylbutoxy)hexyl]-5-(4-hydroxy-3-hydroxymethylphenyl)oxazolidine in the form of a crystalline powder; m.p. 72°-75° C. [1H-NMR (400 MHZ, CD2Cl2)]: identical with the spectrum of the compound of Example 1.

reactant | formaldehyde | 0.18 ml | C=O | CH2O
reactant | [[[6-(4-phenylbutoxy)hexyl]amino]methyl]-4-hydroxy-1,3-dihydroxymethylbenzene | C1(=CC=CC=C1)CCCCOCCCCCCNCC1=C(C=CC(=C1CO)O)CO | C25H37NO4
solvent | methylene chloride | 14 ml | C(Cl)Cl | CH2Cl2
product | (SR)-3-[6-(4-phenylbutoxy)hexyl]-5-(4-hydroxy-3-hydroxymethylphenyl)oxazolidine | C1(=CC=CC=C1)CCCCOCCCCCCN1COC(C1)C1=CC(=C(C=C1)O)CO | C26H37NO4
